US04690925
To a solution of 7-hydroxy-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one (2.6 g) made as per U.S. Pat. No. 3,932,407 and ethyl 4-bromobutyrate (1.72 ml) in 100 ml dimethylformamide was added 1.86 g potassium carbonate. The reaction mixture was sealed under a blanket of nitrogen and heated to 100° C. for 4 hours. The reaction mixture was cooled, poured into 100 ml of water, and the resulting precipitate collected by filtration. Recrystallization from dimethylformamide-water gave ethyl 4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyrate, m.p. 243°-244° C.

reactant | 7-hydroxy-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-2-one | 2.6 g | OC=1C=C2CN3C(=NC2=CC1)NC(C3)=O | C10H9N3O2
reactant | ethyl 4-bromobutyrate | 1.72 ml | BrCCCC(=O)OCC | C6H11BrO2
reactant | potassium carbonate | 1.86 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | ethyl 4-(2-oxo-1,2,3,5-tetrahydroimidazo[2,1-b]quinazolin-7-yl)oxybutyrate | O=C1NC2=NC3=CC=C(C=C3CN2C1)OCCCC(=O)OCC | C16H19N3O4
